US04479955
A suspension of ethyl 4-[2-(4-pyridyl)hydrazino]-1,6-naphthyridin-3-carboxylate hydrochloride (1.76 g) in 50 ml of n-butanol is refluxed for 20 hours. The mixture is cooled down to room temperature and filtered. Collected solid is dissolved in aqueous sodium hydroxide and stirred at room temperature for 21 hours, then filtered. The filtrate is acidified with 1N hydrochloric acid to precipitate a solid, which is collected, washed successively with aqueous methanol, methanol and acetone to yield 2-(4-pyridyl)-pyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one hydrochloride, m.p. above 345°; IR (KBr) 726, 746, 791, 833, 898 cm-1.

reactant | ethyl 4-[2-(4-pyridyl)hydrazino]-1,6-naphthyridin-3-carboxylate hydrochloride | 1.76 g | Cl.N1=CC=C(C=C1)NNC1=C(C=NC2=CC=NC=C12)C(=O)OCC
solvent | n-butanol | 50 ml | C(CCC)O | C4H10O
product | 2-(4-pyridyl)-pyrazolo[4,3-c][1,6]naphthyridin-3(5H)-one hydrochloride | Cl.N1=CC=C(C=C1)N1N=C2C(=CNC=3C=CN=CC23)C1=O | InChI=1S/C14H9N5O.ClH/c20-14-11-8-17-12-3-6-16-7-10(12)13(11)18-19(14)9-1-4-15-5-2-9;/h1-8,17H;1H
